US03935267
a. 2,3-Epoxypropyl 6,7-epoxy-5,6,7,8-tetrahydro-1-naphthyl ether
To a well-stirred solution of 7 g. (0.03 m.) of 1-(2,3-epoxy-propoxy)-5,8-dihydro-naphthalene (prepared as described in application Ser. No. 768,176, filed Oct. 16, 1968, issued Oct. 13, 1970, as U.S. Pat. No. 3,534,085) in 60 ml. of CH2Cl2, 7.1 g. (0.03 m.) of 85% m-chloroperbenzoic acid in 100 ml. CH2Cl2 is added dropwise at such a rate that the temperature is maintained between 25° to 30° C. The mixture is stirred overnight at room temperature. The resulting precipitate (m-chlorobenzoic acid) is filtered off and the CH2Cl2 extract is washed successively with sat. NaHCO3 solution, and water. After drying (MgSO4), the solution is evaporated in vacuo to give 7.2 g. (95%) of oil which solidifies. A sample recrystallized from ether gives white needles, m.p. 85°-87°; λ Nujolmax 1330-1350 cm-1 (epoxy), τ CDCl3 absence of vinyl protons 4.0-4.2 region.

reactant | 1-(2,3-epoxy-propoxy)-5,8-dihydro-naphthalene | O1C(COC2=CC=CC=3CC=CCC23)C1 | C13H14O2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,3-Epoxypropyl 6,7-epoxy-5,6,7,8-tetrahydro-1-naphthyl ether | O1C2CC=3C=CC=C(C3CC21)OCC2CO2 | C13H14O3
